US07872031B2
To a solution of tert-butyl 4-(thiazol-2-yl)piperidine-1-carboxylate (530 mg, 1.97 mmol) in acetonitrile (10 mL) was added NBS (1.40 g, 7.86 mmol). The mixture was stirred at RT for 14 hours and heated at 50° C. for 4 hours. The reaction mixture with some starting material recovered was poured into a solution of Na2SO3 (30 mL) and 6N NaOH (2 mL). The aqueous layer was extracted with EtOAc, dried over MgSO4, and the combined organics concentrated in vacuo. The residue was purified by silica gel chromatography to provide tert-butyl 4-(5-bromothiazol-2-yl)piperidine-1-carboxylate as a yellow oil [210 mg (0.61 mmol); 1H NMR (300 MHz, CDCl3) 7.59 (s, 1H), 4.20 (brd, J=12.9 Hz, 2H), 3.13 (tt, J=3.8, 11.5 Hz, 1H), 2.89 (t, J=11.6 Hz, 2H), 2.08 (d, J=11.7 Hz, 2H), 1.72 (dq, J=4.3, 11.9 Hz, 2H), 1.49 (s, 9H)].

reactant | tert-butyl 4-(thiazol-2-yl)piperidine-1-carboxylate | 1.97 mmol, 530 mg | S1C(=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H20N2O2S
reactant | NBS | 7.86 mmol, 1.40 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-butyl 4-(5-bromothiazol-2-yl)piperidine-1-carboxylate | BrC1=CN=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN2O2S
